US09416132B2
A mixture of 4-(1,3-dioxoisoindolin-2-yl)cyclohexane-1-sulfonamide (3 g, 9.7 mmol) and NH2NH2H2O (1 mL) in EtOH (15 mL) was heated at reflux for 30 min. After cooling, the pH was adjusted with diluted HCl to 5. The mixture was concentrated in vacuo. The residue was dissipated with 35% HCl (10 mL) and heating until all solid material was dissolved. Upon cooling, a crystalline material was filtered and the filtrated was concentrated to give crude 4-aminocyclohexane-1-sulfonamide (700 mg, 40%) as a yellow solid, which was used in the next step directly.

reactant | 4-(1,3-dioxoisoindolin-2-yl)cyclohexane-1-sulfonamide | 9.7 mmol, 3 g | O=C1N(C(C2=CC=CC=C12)=O)C1CCC(CC1)S(=O)(=O)N | C14H16N2O4S
reactant | HCl | Cl | ClH
solvent | EtOH | 15 mL | CCO | C2H6O
product | 4-aminocyclohexane-1-sulfonamide | 700 mg, 40% | NC1CCC(CC1)S(=O)(=O)N | C6H14N2O2S
